US04755323
A mixture of 2.96 g. 3-fluoro-4-(trans-5-pentyl-1,4-dioxane-2-yl)benzoic acid (obtainable from the nitrile, cf. Example 7), 1.42 g. trans-4-propylcyclohexanol and 2.06 g. dicyclohexylcarbodiimide is boiled in 50 ml. diethyl ether for 6 hours. After cooling, one filters, works up as usual and obtains 3-fluoro-4-(trans-5-pentyl-1,4-dioxan-2-yl)benzoic acid trans-4-propylcyclohexyl ester.

reactant | 3-fluoro-4-(trans-5-pentyl-1,4-dioxane-2-yl)benzoic acid | FC=1C=C(C(=O)O)C=CC1[C@@H]1OC[C@H](OC1)CCCCC | C16H21FO4
reactant | trans-4-propylcyclohexanol | C(CC)[C@@H]1CC[C@H](CC1)O | C9H18O
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-fluoro-4-(trans-5-pentyl-1,4-dioxan-2-yl)benzoic acid trans-4-propylcyclohexyl ester | C(CC)[C@@H]1CC[C@H](CC1)OC(C1=CC(=C(C=C1)[C@@H]1OC[C@H](OC1)CCCCC)F)=O | C25H37FO4
